US07504401B2
a) Trifluoro-methanesulfonic acid 2-cyano-1H-indol-4-yl ester
4-Hydroxy-1H-indole-2-carbonitrile was made as described by Estep, K. G., Synth. Comm. 25: 507-14 (1995). It was converted to the triflate by the procedure in Example 21.

reactant | 4-Hydroxy-1H-indole-2-carbonitrile | OC1=C2C=C(NC2=CC=C1)C#N | C9H6N2O
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
product | Trifluoro-methanesulfonic acid 2-cyano-1H-indol-4-yl ester | C(#N)C=1NC2=CC=CC(=C2C1)OS(=O)(=O)C(F)(F)F | C10H5F3N2O3S
